US06969712B2
Production of 2-[(1-ethylproyl)sulfanyl]-5-fluoro-6-(piperazin-1-yl)benzimidazole dihydrochloride
Reactions were conducted following Example 1 except that 5-(4-tert-butoxycarbonylpiperazin-1-yl)-6-fluoro-1,3-dihydro-2H-benzimidazol-2-thione (which was prepared by the method as described in U.S. Pat. No. 6,051,570) was used in place of the 5-(4-tert-butoxycarbonyl-piperazin-1-yl)-6-chloro-1,3-dihydro-2H-benzimidazol-2-thione as obtained in Production Example 1, to provide the title compound as a colorless powder.

reactant | 5-(4-tert-butoxycarbonylpiperazin-1-yl)-6-fluoro-1,3-dihydro-2H-benzimidazol-2-thione | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC2=C(NC(N2)=S)C=C1F | C16H21FN4O2S
reactant | 5-(4-tert-butoxycarbonyl-piperazin-1-yl)-6-chloro-1,3-dihydro-2H-benzimidazol-2-thione | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC2=C(NC(N2)=S)C=C1Cl | C16H21ClN4O2S
product | 2-[(1-ethylproyl)sulfanyl]-5-fluoro-6-(piperazin-1-yl)benzimidazole dihydrochloride | Cl.Cl.C(C)C(CC)SC=1NC2=C(N1)C=C(C(=C2)F)N2CCNCC2 | InChI=1S/C16H23FN4S.2ClH/c1-3-11(4-2)22-16-19-13-9-12(17)15(10-14(13)20-16)21-7-5-18-6-8-21;;/h9-11,18H,3-8H2,1-2H3,(H,19,20);2*1H
